US06225310B1
6-Bromo-3-isopropylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
Bromine (0.12 ml, 2.3 mmol) was added dropwise to a solution of 6-chloro-3-isopropylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (280 mg, 1.0 mmol) in 10 ml of acetic acid and the mixture was stirred for 24 h at 100° C. in a sealed flask. The cooled mixture was evaporated to dryness and the residue was triturated with water to give a solid, which was recrystallised from ethanol/water (1:1) affording 118 mg (39%) of the title compound contaminated with 10% of the starting material; mp ca. 279° C. (aqueous ethanol); 1H-NMR (DMSO-d6): δ1.16 (d, 6H, 2×CH3), 3.86 (m, 1H, CH), 7.14 (s, 1H, H-5), 7.18 (br, 1H, NH), 10.74 (s, 1H, NH); MS: m/e 323/325 (M+).

reactant | Bromine | 2.3 mmol, 0.12 ml | BrBr | Br2
reactant | 6-chloro-3-isopropylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 1.0 mmol, 280 mg | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NC(C)C | C8H10ClN3O2S2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-Bromo-3-isopropylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 118 mg, 39% | BrC1=CC=2NC(=NS(C2S1)(=O)=O)NC(C)C | C8H10BrN3O2S2
